US07214681B2
Preparation 21: Triphenyl(tetrahydropyran-4-ylmethyl)phosphonium iodide
A stirred solution of 4-iodomethyltetrahydropyran (3.43 g, 15.2 mmol) and PPh3 (3.98 g, 15.2 mmol) in anhydrous MeCN (10 mL) was heated under reflux for 19 h. On cooling to 20° C., Et2O (50 mL) was added. The precipitate formed was collected, washed with Et2O (150 mL), and recrystallised (MeCN) to give the title compound: m/z (ES+)=361.2 [M]+.

reactant | 4-iodomethyltetrahydropyran | 15.2 mmol, 3.43 g | ICC1CCOCC1 | C6H11IO
reactant | PPh3 | 15.2 mmol, 3.98 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | MeCN | 10 mL | CC#N | C2H3N
product | Triphenyl(tetrahydropyran-4-ylmethyl)phosphonium iodide | [I-].C1(=CC=CC=C1)[P+](CC1CCOCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26OP.HI/c1-4-10-22(11-5-1)26(23-12-6-2-7-13-23,24-14-8-3-9-15-24)20-21-16-18-25-19-17-21;/h1-15,21H,16-20H2;1H/q+1;/p-1
